US06159904
2.0 Grams (7.8 mmol) of 4-hydroxy-6-carboxy-5-methylthiochroman-1,1-dioxide was dissolved in 10 ml of t-amyl alcohol, and 1.0 g (8.6 mmol, 1.1 eq.) of 1-ethyl-5-hydroxypyrazole and 1.8 g (8.6 mmol, 1.1 eq.) of N,N'-dicyclohexylcarbodiimide were added. The mixture was stirred at room temperature for 3 hours. Then, 0.8 g (5.9 mmol) of potassium carbonate was added. The mixture was heated at 80° C. for 6 hours. After the completion of the reaction, the solvent was distilled off. The remaining oil was dissolved in ethyl acetate, and end product was extracted with a 5 wt % sodium hydrogencarbonate aqueous solution. The resultant aqueous solution was adjusted to a pH of 1 in an ice bath by adding 2N hydrochloric acid, and extracted with ethyl acetate. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and the solvent was distilled off to give 2.0 g (yield 73%) of 4-hydroxy-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide.

reactant | 4-hydroxy-6-carboxy-5-methylthiochroman-1,1-dioxide | 7.8 mmol | OC1CCS(C2=CC=C(C(=C12)C)C(=O)O)(=O)=O | C11H12O5S
reactant | 1-ethyl-5-hydroxypyrazole | 8.6 mmol, 1.0 g, 1.1 eq. | C(C)N1N=CC=C1O | C5H8N2O
reactant | N,N'-dicyclohexylcarbodiimide | 8.6 mmol, 1.8 g, 1.1 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | potassium carbonate | 5.9 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | t-amyl alcohol | 10 ml | C(C)(C)(CC)O | C5H12O
product | 4-hydroxy-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 2.0 g, yield 73% | OC1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1O)CC)(=O)=O | C16H18N2O5S
